US04950674
α,α-Diphenyl-1-(phenylmethyl)-4-piperidinemethanol
A Grignard solution was prepared by the addition of 94.2 g (0.6 mole) of bromobenzene in 250 ml of dry (freshly distilled from lithium aluminum hydride) tetrahydrofuran to a mixture of 12.5 g (0.5 mole) of magnesium chips in 500 ml of dry tetrahydrofuran. After the addition was complete, the mixture was heated at reflux for 15 min to complete formation. To this Grignard reagent at ambient temperature, was added a solution of 44.2 g (0.179 mole) of the base of 1-(phenylmethyl)-4-piperidinecarboxylic acid ethyl ester in 250 ml of tetrahydrofuran in a stream. The solution was stirred overnight at ambient temperature and then poured into 2.5 liters of a saturated ammonium chloride solution. The layers were separated and the aqueous layer was extracted once with 500 ml of methylene chloride and twice with 250 ml of methylene chloride. The combined organic layers were washed successively with 500 ml of water, 750 ml of a 3% sodium hydroxide solution, 250 ml of water and 250 ml of brine. The organic layer was dried over sodium sulfate and concentrated to give a gum as residue. The gum was dissolved in 500 ml of ethyl ether treated with activated charcoal, filtered through Celite®, and then concentrated to give a gum as residue. The gum crystallized when triturated with petroleum ether (30°-60° C.). The solid was collected by filtration and dried to yield 49.0 g (77%) of title compound as a white solid. An analytical sample, mp 89.5°-90.5° C., was prepared by recrystallization from 2-propanol.

reactant | bromobenzene | 0.6 mole, 94.2 g | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 0.5 mole, 12.5 g | [Mg] | Mg
reactant | 1-(phenylmethyl)-4-piperidinecarboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)CC1=CC=CC=C1 | C15H21NO2
reactant | ammonium chloride | 2.5 liters | [Cl-].[NH4+]
reactant | charcoal | C | CH4
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
product | α,α-Diphenyl-1-(phenylmethyl)-4-piperidinemethanol | 49.0 g, 77% | C1(=CC=CC=C1)C(O)(C1CCN(CC1)CC1=CC=CC=C1)C1=CC=CC=C1 | C25H27NO
